US07157447B2
2-(2-Chloroethoxy)-2-methylpropanenitrile.
(Navalokina, R. Et al J. Org. Chem. USSR (Engl. Trans.), 1980, 16, 1382–1386.2) Ramalingam, K. U.S. Pat. No. 4,864,051, 1989.). A 250 mL round bottom flask was charged with ZnCl2 (68.14 g, 0.5 mole) which was then fused by heating under vacuum. After returning to room temperature the material was placed under an atmosphere of N2. To this was added acetone cyanohydrin (45.66 mL, 0.5 mole) followed by 2-chloroethanol (50.24 mL, 0.75 mole) and the mixture placed in a preheated oil bath (60° C.). After stirring for 18–20 h at 60° C., the reaction mixture was cooled, diluted with water (300 mL) and washed with CH2Cl2 (5×100 mL). The combined CH2Cl2 extracts were dried (Na2SO4), filtered and concentrated under vacuum to afford the crude product as a yellow liquid. Purification was accomplished by vacuum distillation (10 mm Hg) using a vigreux column. The fraction boiling between 65–75° C. was collected to afford the desired product as a colorless oil (47.1 g, 63.8% yield). 1H NMR (500 MHz, CDCl3) δ ppm: 3.85 (2H, t, J=5.8 Hz), 3.64 (2H, t, J=5.8 Hz), 1.60 (6H, s).

reactant | acetone cyanohydrin | 0.5 mole, 45.66 mL | CC(C#N)(O)C | C4H7NO
reactant | 2-chloroethanol | 0.75 mole, 50.24 mL | ClCCO | C2H5ClO
solvent | water | 300 mL | O | H2O
catalyst | ZnCl2 | 0.5 mole, 68.14 g | [Cl-].[Cl-].[Zn+2]
product | 2-(2-Chloroethoxy)-2-methylpropanenitrile | 47.1 g, 63.8% yield | ClCCOC(C#N)(C)C | C6H10ClNO
